US04607039
A mixture of 4-methyl-3-phenylquinolin-2-one (1.18 g.) and phosphorus oxychloride (60 ml.) was heated under reflux for 2 hr. The mixture was cooled and poured into ice-water (200 ml.), and the resulting mixture was extracted with ethyl acetate (3×50 ml.). The ethyl acetate extract was washed successively with saturated sodium carbonate solution (3×50 ml.) and water (50 ml.), dried (Na2SO4), and evaporated in vacuo to dryness. The residue was crystallised from cyclohexane to give 2-chloro-4-methyl-3-phenylquinoline, m.p. 88°-90°.

reactant | 4-methyl-3-phenylquinolin-2-one | 1.18 g | CC1=C(C(NC2=CC=CC=C12)=O)C1=CC=CC=C1 | C16H13NO
reactant | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-methyl-3-phenylquinoline | ClC1=NC2=CC=CC=C2C(=C1C1=CC=CC=C1)C | C16H12ClN
